US06432975B1
Quinuclidin-3-one hydrochloride (4.6 g, 28.3 mmol) and powdered anhydrous potassium hydroxide (2.1 g, 37.2 mmol) were dissolved in methanol (25 ml) and stirred for 15 mins. Furan-3-carboxaldehyde (2.83 g, 29.5 mmol) was then added in one portion and the mixture was stirred for an additional 20 hrs. The reaction mixture was then diluted with 40 ml water and cooled to 0° C. yielding 2-((3-furyl)methylene)-1-azabicyclo[2.2.2]octan-3-one as a yellow precipitate, which was collected, washed with distilled water and dried under vacuum (5.16 g, 81.4%). 2-((3-Furyl)methylene)-1-azabicyclo[2.2.2]octan-3-one (2.1 g, 100 mmol) was dissolved in methanol (100 ml) and 10% palladium on charcoal (0.2 g) was carefully added under nitrogen. The suspension was hydrogenated at 50 psig in a Parr hydrogenation apparatus for 8 hrs followed by quenching of the catalyst with a small amount of chloroform. The entire slurry was filtered through a pad of Celite filter aid followed by additional washing of the pad with methanol. Rotary evaporation of the pooled solvents gave the desired product, 2-((3-oxolanyl)methyl)-1-azabicyclo[2.2.2]octan-3-one, as a clear oil that solidified upon cooling (2.05 g, 96.7%).

reactant | Quinuclidin-3-one hydrochloride | 28.3 mmol, 4.6 g | Cl.N12CC(C(CC1)CC2)=O
reactant | potassium hydroxide | 37.2 mmol, 2.1 g | [OH-].[K+]
reactant | Furan-3-carboxaldehyde | 29.5 mmol, 2.83 g | O1C=C(C=C1)C=O | C5H4O2
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | 2-((3-furyl)methylene)-1-azabicyclo[2.2.2]octan-3-one | O1C=C(C=C1)C=C1N2CCC(C1=O)CC2 | C12H13NO2
